US04153716
To a solution of 3.0 g. (0.0126 mole) of 7-(2-hydroxyethyl)-3-phenylbenzofuran in 50 ml. of dichloromethane is added dropwise 2.1 g. of bromine. After stirring for five minutes the mixture is evaporated, benzene is added to the residue and it is evaporated again. The residue is mixed with petroleum ether and crystallizes. Recrystallization from hexane gives 2-bromo-7-(2-hydroxyethyl)-3-phenylbenzofuran, m.p. 108°-112° C.

reactant | 7-(2-hydroxyethyl)-3-phenylbenzofuran | 0.0126 mole | OCCC1=CC=CC=2C(=COC21)C2=CC=CC=C2 | C16H14O2
reactant | bromine | BrBr | Br2
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2-bromo-7-(2-hydroxyethyl)-3-phenylbenzofuran | BrC=1OC2=C(C1C1=CC=CC=C1)C=CC=C2CCO | C16H13BrO2
